US05143928
[5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4,5-dihydro-4-oxo-2-oxazolyl]guanidine
A solution of 2.0 g (0.021 mole) of guanidine hydrochloride in 75 mL of ethanol is cooled in ice and treated in portions with 2.2 g (0.020 mole) of potassium tert-butoxide. The mixture is stirred for 15 minutes, and then rapidly filtered into a suspension of 4.6 g (0.013 mole) of 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(methylthio)-4(5H)-oxazolone in 75 mL of ethanol. The new reaction mixture is stirred at reflex for 3 hours, then cooled and filtered. The filtrate is evaporated 50% and added to 500 g of ice and water. The precipitated solid is filtered, washed with water, and dissolved in 200 mL of ethyl acetate. The solution is washed with brine (3×200 mL), dried (anhydrous sodium sulfate), and evaporated. The residue is chromatographed over silica gel, using elution with 10% acetonitrile in ethyl acetate. The purified product, [5-[[3,5-bis(1,1-dimethylethyl)-4hydroxyphenyl]methylene]-4,5-dihydro- 4-oxo-2-oxazolyl]guanidine, is 2.6 g (55% yield). A sample recrystallized from aqueous acetonitrile has mp 258°-dec.

reactant | guanidine hydrochloride | 0.021 mole, 2.0 g | Cl.NC(=N)N
reactant | potassium tert-butoxide | 0.020 mole, 2.2 g | CC(C)([O-])C.[K+]
reactant | 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-(methylthio)-4(5H)-oxazolone | 0.013 mole, 4.6 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(O1)SC)=O | C19H25NO3S
solvent | ethanol | 75 mL | C(C)O | C2H6O
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | [5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4,5-dihydro-4-oxo-2-oxazolyl]guanidine | 55% yield | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(O1)NC(=N)N)=O | C19H26N4O3
